US05434124
2-(Dimethylaminosulfonyloxy)-benzenesulfonamide
4.0 g (29 mmol) of potassium carbonate were added to a solution of 5.0 g (29 mmol) of 2-hydroxybenzenesulfonamide in 200 ml of acetonitrile at 25° C. Stirring was carried out for 10 minutes, after which 4.1 g (29 mmol) of dimethylaminosulfonyl chloride were added dropwise at 25° C. and stirring was continued for a further 16 hours at this temperature. The volatile constituents were removed under reduced pressure from a water pump, the residue was taken up in ethyl acetate, the solution was dried over Na2SO4 and the solvent was removed under reduced pressure from a water pump. The remaining residue was stirred vigorously for 1 hour with 100 ml of diethyl ether. The crystalline product was filtered off under suction and dried at 40° C. under reduced pressure. 5.7 g of the title compound were obtained in this manner.

reactant | potassium carbonate | 29 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxybenzenesulfonamide | 29 mmol, 5.0 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | dimethylaminosulfonyl chloride | 29 mmol, 4.1 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-(Dimethylaminosulfonyloxy)-benzenesulfonamide | 5.7 g | CN(S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)N)C | C8H12N2O5S2
